US07109186B2
Compound 823: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-methanesulfonyl-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methanesulfonyl-benzyl)-N-methoxy-acetamide was reacted with paraformaldehyde and 2-morpholin-4-yl-ethylamine using the method described for the preparation of compound 767 to give the title compound as a white solid (0.021 g, 45% yield). 1HNMR (300 MHz, MeOD) δ: 7.75 (1H, dd, J=8.78, 2.93 Hz), 7.63–7.54 (2H, m), 5.34 (2H, s), 4.29 (2H, s), 4.01–3.99 (2H, m), 3.84–3.81 (2H, m), 3.77 (3H, s), 3.63–3.45 (6H, m), 3.39 (3H, s), 3.16–3.08 (2H, m).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methanesulfonyl-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=C(C=C(C=C1)F)S(=O)(=O)C)=O)C | C16H18FNO7S
reactant | paraformaldehyde | C=O | CH2O
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-methanesulfonyl-benzyl)-methoxy-amide | 0.021 g, 45% yield | FC1=CC(=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCOCC2)OC)C=C1)S(=O)(=O)C | C20H26FN3O7S
